US09216999B2
1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone
Methylmagnesium bromide-diethyl ether solution (3.0 M, 10 mL, 30 mmol) was added dropwise to 4-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (4.89 g, 15.7 mmol) obtained in Reference Synthetic Exampleb 55 in tetrahydrofuran (50 mL) under cooling with ice, and the reaction mixture was stirred for 2 hours. After dropwise addition of water and addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in 1,2-dimethoxyethane (25 mL) and vigorously stirred with manganese dioxide (9.0 g, 0.10 mol) at 80° C. for 4 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in 1,2-dimethoxyethane (25 mL) and vigorously stirred with manganese dioxide (9.0 g, 0.10 mol) at 80° C. for 4 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1 (v/v)) to give the title compound as an orange oil (3.09 g, yield 61%). (alternative to Reference Synthetic Exampleb 33)

reactant | Methylmagnesium bromide diethyl ether | 30 mmol, 3.0 M, 10 mL | C[Mg]Br.C(C)OCC
reactant | 4-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 15.7 mmol, 4.89 g | ClC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C14H19ClN2O2Si
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 0.10 mol, 9.0 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 0.10 mol, 9.0 g | [O-2].[O-2].[Mn+4]
product | 1-(4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)ethanone | 3.09 g, yield 61% | ClC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C15H21ClN2O2Si
